US09162986B2
Proceeding as in Reference 19, but substituting 3-bromo-N-tert-butyl-4-methoxybenzenesulfonamide and methyl 3-formyl-4-(2-methoxyethoxy-methoxy)-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzoate, gave methyl 6-benzyloxy-5′-tert-butylsulfamoyl-5-formyl-2′-methoxy-biphenyl-3-carboxylate.

reactant | 3-bromo-N-tert-butyl-4-methoxybenzenesulfonamide | BrC=1C=C(C=CC1OC)S(=O)(=O)NC(C)(C)C | C11H16BrNO3S
reactant | methyl 3-formyl-4-(2-methoxyethoxy-methoxy)-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzoate | C(=O)C=1C=C(C(=O)OC)C=C(C1OCOCCOC)B1OC(C(O1)(C)C)(C)C | C19H27BO8
product | methyl 6-benzyloxy-5′-tert-butylsulfamoyl-5-formyl-2′-methoxy-biphenyl-3-carboxylate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=C(C=CC(=C1)S(NC(C)(C)C)(=O)=O)OC)C(=O)OC)C=O | C27H29NO7S
